US07989457B2
Step D. 3-{4-[2-(6-Chloro-pyridin-3-yl)-octyloxy]-benzoylamino}-propionic acid tert-butyl ester
A solution of 3-(4-hydroxy-benzoylamino)-propionic acid tert-butyl ester (1.17 g, 4.4 mmol) and 2-(6-Chloro-pyridin-3-yl)-octan-1-ol (0.852 g, 3.55 mmol) in toluene (10.0 mL) is degassed and filled with nitrogen for 3 times. Tributylphosphine (1.34 mL, 5.32 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of 1,1′-(azodicarbonyl)-dipiperidine (1.34 g, 5.32 mmol). The reaction mixture is allowed to warm to room temperature and stirred over night, the mixture is loaded on silica gel column. Chromatography gives the title compound (180 mg).

reactant | 3-(4-hydroxy-benzoylamino)-propionic acid tert-butyl ester | 4.4 mmol, 1.17 g | C(C)(C)(C)OC(CCNC(C1=CC=C(C=C1)O)=O)=O | C14H19NO4
reactant | 2-(6-Chloro-pyridin-3-yl)-octan-1-ol | 3.55 mmol, 0.852 g | ClC1=CC=C(C=N1)C(CO)CCCCCC | C13H20ClNO
reactant | Tributylphosphine | 5.32 mmol, 1.34 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 5.32 mmol, 1.34 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[2-(6-Chloro-pyridin-3-yl)-octyloxy]-benzoylamino}-propionic acid tert-butyl ester | 180 mg | C(C)(C)(C)OC(CCNC(C1=CC=C(C=C1)OCC(CCCCCC)C=1C=NC(=CC1)Cl)=O)=O | C27H37ClN2O4
